//Spice netlist for an inverter 
simulator lang=spectre
subckt IV (input output VDD VSS)
        parameters wp=0.6u lp=0.2u wn=0.3u ln=0.3u              
        M1 output input VDD VDD tsmc18P w=wp l=lp
        M2 output input VSS VSS tsmc18N w=wn l=ln
ends IV

subckt NAND (A B output VDD VSS)
        parameters wp=0.6u lp=0.2u wn=0.3u ln=0.2u              
        M1 output A VDD VDD tsmc18P w=wp l=lp
	M2 output B VDD VDD tsmc18P w=wp l=lp
        M3 output A w1 VSS tsmc18N w=wn l=ln
	M4 w1 B VSS VSS tsmc18N w=wn l=ln
ends NAND

subckt XOR (A B output VDD VSS)
        parameters wp=1.2u lp=0.2u wn=0.3u ln=0.2u 

	inv1(A A_not VDD VSS) IV wp=0.9u lp=0.2u wn=0.3u ln=0.2u 
	inv2(B B_not VDD VSS) IV wp=0.9u lp=0.2u wn=0.3u ln=0.2u	
             
        M1 w1 B VDD VDD tsmc18P w=wp l=lp
	M2 output A_not w1 VDD tsmc18P w=wp l=lp
	M3 w2 B_not VDD VDD tsmc18P w=wp l=lp
	M4 output A w2 VDD tsmc18P w=wp l=lp

        M5 w3 A_not output VSS tsmc18N w=wn l=ln
	M6 VSS B_not w3 VSS tsmc18N w=wn l=ln
	M7 w4 A output VSS tsmc18N w=wn l=ln
	M8 VSS B w4 VSS tsmc18N w=wn l=ln	
ends XOR






